US04021552
A stirred mixture of 8.86 g. (0.025 mole) of 2-bromo-10-(3-chloropropyl)phenothiazine, 5.18 g. (0.025 mole) of 4-(p-fluorobenzoyl)piperidine and 10 g. of potassium carbonate in 100 ml. of dry dimethylformamide was heated at 90°-100° C. for 24 hours. The cooled reaction mixture was filtered, the dimethylformamide removed at reduced pressure and the residue mixed with dry ether and the ether mixture filtered to remove solids. The dry ether solution was treated with ethereal hydrogen chloride to give the 2-bromo-10-[3-(4-p-fluorobenzoylpiperidinyl)propyl]phenothiazine hydrochloride.

reactant | 2-bromo-10-(3-chloropropyl)phenothiazine | 0.025 mole | BrC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCl | C15H13BrClNS
reactant | 4-(p-fluorobenzoyl)piperidine | 0.025 mole | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-bromo-10-[3-(4-p-fluorobenzoylpiperidinyl)propyl]phenothiazine hydrochloride | Cl.BrC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | InChI=1S/C27H26BrFN2OS.ClH/c28-21-8-11-26-24(18-21)31(23-4-1-2-5-25(23)33-26)15-3-14-30-16-12-20(13-17-30)27(32)19-6-9-22(29)10-7-19;/h1-2,4-11,18,20H,3,12-17H2;1H
